US04048314
1-Acetyl-3,4-epoxy-4-phenylpiperidine
6.0 G. of 85% m-chloroperbenzoic acid was added portionwise to a solution of 5.8 g. of 1-acetyl-4-phenyl-1,2,5,6-tetrahydropyridine dissolved in 100 ml. of methylene chloride, the latter being cooled during the addition using an ice bath. The mixture was stirred 18 hours at room temperature, then washed with water, sodium bisulfite solution, sodium carbonate solution and, finally, again with water. After evaporation 4.8 g. of solid remained, which was recrystallised from ether to give 3.9 g. of the desired product which was found to have a melting point of 68°-71° C.

reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 1-acetyl-4-phenyl-1,2,5,6-tetrahydropyridine | C(C)(=O)N1CC=C(CC1)C1=CC=CC=C1 | C13H15NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-Acetyl-3,4-epoxy-4-phenylpiperidine | C(C)(=O)N1CC2C(CC1)(C1=CC=CC=C1)O2 | C13H15NO2
